US07053107B2
6-Chloro-3-[2-(5-ethyl-pyridin-2-yl)-vinyl]-1H-indazole
To a stirred solution of 1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol (232 mg, 0.60 mmol) in CH2Cl2 was added TEA (0.25 mL, 1.81 mmol) and mesyl chloride (0.070 mL, 0.90 mmol). The reaction was stirred for 30 minutes, and then DBU (2 mL) was added. The reaction was refluxed for 18 hours and then quenched with 40 mL of 1 N citric acid. The layers were separated, and the aqueous was extracted with 20 mL CH2Cl2. The combined organics were dried over Na2SO4, filtered, and concentrated by rotary evaporation. Purification by chromatography (12 g silica gel, 50–70% EtOAc/hexanes) yielded the desired compound (135 mg, 71%).

reactant | 1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol | 0.60 mmol, 232 mg | ClC1=CC=C2C(=NNC2=C1)C(CC1=NC=C(C=C1)CC)O | C16H16ClN3O
reactant | mesyl chloride | 0.90 mmol, 0.070 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | DBU | 2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Chloro-3-[2-(5-ethyl-pyridin-2-yl)-vinyl]-1H-indazole | 135 mg, 71% | ClC1=CC=C2C(=NNC2=C1)C=CC1=NC=C(C=C1)CC | C16H14ClN3
